US04877799
trans-1-propyl-4-(4-fluorophenyl)-3-(4-t-butylphenoxymethyl)-piperidine hydrochloride M.p. 221.1° C. was prepared exactly as described in example 1 from trans-4-(4-fluorophenyl)-3-(4-t-butylphenoxymethyl)-piperidine hydrochloride and propyl bromide by refluxing for 96 hours.

reactant | trans-4-(4-fluorophenyl)-3-(4-t-butylphenoxymethyl)-piperidine hydrochloride | Cl.FC1=CC=C(C=C1)[C@H]1[C@@H](CNCC1)COC1=CC=C(C=C1)C(C)(C)C
reactant | propyl bromide | C(CC)Br | C3H7Br
product | trans-1-propyl-4-(4-fluorophenyl)-3-(4-t-butylphenoxymethyl)-piperidine hydrochloride | Cl.C(CC)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)COC1=CC=C(C=C1)C(C)(C)C | InChI=1S/C25H34FNO.ClH/c1-5-15-27-16-14-24(19-6-10-22(26)11-7-19)20(17-27)18-28-23-12-8-21(9-13-23)25(2,3)4;/h6-13,20,24H,5,14-18H2,1-4H3;1H/t20-,24-;/m0./s1
